US07485732B2
Step 3 Ethyl (3-bromo-5-fluorophenyl)[1-(diphenylmethyl)azetidin-3-yl]acetate
The title compound was prepared from ethyl (3-bromo-5-fluorophenyl)[1-(diphenylmethyl)azetidin-3-ylidene]acetate according to the procedure described in Preparation 6 except that THF was used as the co-solvent; Mass Spectrum m/e=482 (M+1, 79Br), 484 (M+1, 81Br).

reactant | ethyl (3-bromo-5-fluorophenyl)[1-(diphenylmethyl)azetidin-3-ylidene]acetate | BrC=1C=C(C=C(C1)F)C(C(=O)OCC)=C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C26H23BrFNO2
solvent | THF | C1CCOC1 | C4H8O
product | Ethyl (3-bromo-5-fluorophenyl)[1-(diphenylmethyl)azetidin-3-yl]acetate | BrC=1C=C(C=C(C1)F)C(C(=O)OCC)C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C26H25BrFNO2
